US08461164B2
4-[2-(Pteridin-4-ylamino)-ethyl]-phenol (500 mg, 1.9 mmol), 4-isopropylphenylboronic acid (400 mg, 2.4 mmol), anh. Cu(OAc)2 (360 mg, 2.0 mmol) and powdered, freshly activated 4 Å molecular sieves (approximately 1 g) were combined in CH2Cl2 (15 mL), treated with pyridine (920 μL, 900 mg, 11.4 mmol) and sealed and stirred for 20 h with a moisture trap. The reaction was suction filtered and the filtrate shaken with dilute aqueous NH4OH. The organic phase was washed with H2O and brine and concentrated in vacuo. The residue was purified by preparative RP-HPLC using 80% MeCN/H2O to yield {2-[4-(4-isopropylphenoxy)-phenyl]-ethyl}-pteridin-4-yl-amine (78 mg, 11%) as a tan solid: mp 105-106.5° C.

reactant | 4-[2-(Pteridin-4-ylamino)-ethyl]-phenol | 1.9 mmol, 500 mg | N1=CN=C(C2=NC=CN=C12)NCCC1=CC=C(C=C1)O | C14H13N5O
reactant | 4-isopropylphenylboronic acid | 2.4 mmol, 400 mg | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | pyridine | 11.4 mmol, 920 μL, 900 mg | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 2.0 mmol, 360 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | {2-[4-(4-isopropylphenoxy)-phenyl]-ethyl}-pteridin-4-yl-amine | 78 mg, 11% | C(C)(C)C1=CC=C(OC2=CC=C(C=C2)CCNC2=NC=NC3=NC=CN=C23)C=C1 | C23H23N5O
